US05171860
3-Ethoxy-4-amino-5-ethoxycarbonylisothiazole-1-oxide
A mixture of 1.55 g (7.6 mmole) of 4-amino-5-ethoxycarbonylisothiazolin-3-one-1-oxide, 1.38 g (10.0 mmole) of potassium carbonate, and 0.64 ml (8.0 mmole) of ethyl iodide in 6 ml dimethylsulfoxide was stirred at room temperature for 18 hours. The suspension was then poured onto crushed ice and extracted with ethyl acetate (3×30 ml). The combined organic phases were washed one time each with ice water and brine, then dried over sodium sulfate. The title compound, which was obtained upon removal of the solvent, was identical to the product of Example 7.

reactant | 4-amino-5-ethoxycarbonylisothiazolin-3-one-1-oxide | 7.6 mmole, 1.55 g | NC1C(NS(C1C(=O)OCC)=O)=O | C6H10N2O4S
reactant | potassium carbonate | 10.0 mmole, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 8.0 mmole, 0.64 ml | C(C)I | C2H5I
solvent | dimethylsulfoxide | 6 ml | CS(=O)C | C2H6OS
product | 3-Ethoxy-4-amino-5-ethoxycarbonylisothiazole-1-oxide | C(C)OC1=NS(C(=C1N)C(=O)OCC)=O | C8H12N2O4S
